US06232310B1
c) 3-Methyl-7-methoxy-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
Treatment of N-(2-cyanomethylsulfonyl-4-methoxyphenyl)acetamide with aqueous sodium hydroxide by a procedure similar to the procedure described in EXAMPLE 1 c) gave the title compound; mp 307-308° C. (from methanol), 1H-NMR (DMSO-d6), δ (ppm): 11.89 (br s, 1H, NH), 7.51-7.27 (m, 3H, Ar—H), 3.86 (s, 3H, CH3O), 2.44 (s, 3H, CH3).

reactant | N-(2-cyanomethylsulfonyl-4-methoxyphenyl)acetamide | C(#N)CS(=O)(=O)C1=C(C=CC(=C1)OC)NC(C)=O | C11H12N2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-Methyl-7-methoxy-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | CC1=C(S(C2=C(N1)C=CC(=C2)OC)(=O)=O)C#N | C11H10N2O3S
